US08496975B2
Step A. Preparation of 2-phenoxy-2′,4′-dimethoxyacetophenone (a)
A solution of 2-bromo-2′,4′-dimethoxyacetophenone (5 g, 19.1 mmols) in 25 mL of 2-butanone was added to a suspension of phenol (1.8 g, 19.1 mmols), K2CO3 (2.6 g, 19.1 mmols) and KI (41.5 mg, 0.25 mmols) in 20.0 mL of the same solvent. The solution was then refluxed for 20 hours. The mixture was filtered and the solvent was evaporated off under vacuum. The residue obtained was dissolved in EtOAc and washed with a 10% aqueous solution of NaOH and then with water. The organic extract was dried over Na2SO4, filtered and evaporated under vacuum. Finally, the crude residue was washed with Et2O and dried under low pressure to provide 4.4 g (yield: 84%) of the title compound.

reactant | 2-bromo-2′,4′-dimethoxyacetophenone | 19.1 mmols, 5 g | BrCC(=O)C1=C(C=C(C=C1)OC)OC | C10H11BrO3
reactant | phenol | 19.1 mmols, 1.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 19.1 mmols, 2.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-butanone | 25 mL | CC(CC)=O | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-phenoxy-2′,4′-dimethoxyacetophenone | 4.4 g, yield: 84% | O(C1=CC=CC=C1)CC(=O)C1=C(C=C(C=C1)OC)OC | C16H16O4
